reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C-:3]#[O+:4].[O+:1](=[C-:2][H:7])[C:5](=[O:6])[H:8]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],14.577416343801204
[C:1]([C@:2]1([H:12])[C:3]([H:13])([H:14])[C:4](=[O:5])[C@@:6]1([O:7][H:11])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4](=[O:5])[C:6](=[O:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],66.43157565702771
[C:1](=[O:2])([H:8])[H:9].[C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])=[C:6]=[C:7]([H:10])[H:17]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],44.07866073305588
[N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[O+:1]#[C-:2]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],67.54995821284429
[O:1]([C:2]([C:3]#[N:4])([H:6])[H:7])[H:5]>>[C+:2](=[C:3]=[N-:4])[H:6].[O:1]([H:5])[H:7],76.7260425161627
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:14])([C:6](=[C:4]=[O:5])[H:13])[H:10])([H:7])([H:8])[H:9],79.9969899833674
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([O+:2]=[C-:3][O:4][H:10])([H:7])([H:8])[H:9],59.228870192395895
[C:1](=[C:2]([C:7]([C:6]([C:4](=[C:3]([H:12])[H:13])[O:5][H:14])([H:15])[H:16])([H:10])[H:17])[H:11])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],97.41346450270919
[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:4](=[C:3]([H:9])[H:10])[H:12])([H:8])[H:11])([H:5])([H:6])[H:7],83.97253279126579
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])([H:11])[H:12],97.29814536344459
[C:1]([C:2]([O:3][H:11])=[C:6]=[N:7][C:4]#[C:5][H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],72.95934491224399
[H:8][H:13].[O:1]=[C:2]([C:3]([O:4]/[C:5](=[N:6]\[H:7])[H:12])([H:10])[H:11])[H:9]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],58.9635347978368
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[H:11][H:12].[O-:1][C+:2]([N:3]([C:4](=[C:5]([C:6]#[C:7][H:14])[H:13])[H:10])[H:9])[H:8],103.293404188078
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4][O:6][H:16])[H:10])([H:7])([H:8])[H:9],91.73007260678301
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[N+:3]([C-:2]([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:15])([H:7])([H:8])[H:9],102.33610215013701
[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C:3]([C:4](=[O:6])[H:12])([C:5]([H:13])([H:14])[H:15])([H:10])[H:11]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:13])([H:14])[H:15])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],77.72654082836625
[C:1]([C:2]([N:3]1[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:15])[H:16])([H:11])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[N:3]2[C:4]([H:12])([H:13])[C:5]1([O:6][H:14])[C:7]2([H:15])[H:16])([H:8])([H:9])[H:10],103.0173101993835
[C:1](=[O:2])([H:9])[H:10].[C:3](=[O:4])([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:8]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],49.98688532649251
[C:2](=[C:3]([N:4]([C+:5]([O-:6])[H:13])[H:12])[H:10])([H:8])[H:9].[O:1]([H:7])[H:11]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],60.83870422110974
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[N:3][O:4][H:10])([H:7])[H:9].[C:5](=[O:6])([H:11])[H:12].[H:8][H:13],104.35940405893601
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C@@:3]([C:5]#[N:6])([H:10])[O:4]1.[O:1]([H:7])[H:11],74.6488175594818
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:11])([H:14])[H:15])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:16],64.08718200371861
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]=[C:6]1[H:14],80.4622806797949
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]1([H:7])[C:2]([H:8])=[O+:3][C:4]([H:9])([H:10])[C:5]([H:11])=[C-:6]1,43.9467326429257
